US06172057B2
2-(4-Methoxy-benzenesulfonyl)-2-but-2-ynyl-hex-4-ynoic acid hydroxyamide was prepared according to the method as outlined in example 1. Starting from 2-(4-methoxy-benzenesulfonyl)-2-but-2-ynyl-hex-4-ynoic acid (0.27 g, 0.81 mmol) and hydroxylamine hydrochloride (0.70 g, 10 mmol), 0.23 g of the product was isolated. Yield 89%; white solid; mp 135-137° C.; MS: 349.9 (M+H)+1; 1H NMR (300 MHz, DMSO-d6) δ 1.67 (s, 6H), 2.70-3.10 (m, 4H), 3.88 (s, 3H), 7.15 (d, J=10.0 Hz, 2H), 7.71 (d, J=10.0 Hz, 2H), 9.20 (brs, 1H), 10.90 (brs, 1H); IR (KBr, cm−1): 3301 s, 3161 m, 2922 m, 1640 m, 1595 s, 1500 m.

reactant | 2-(4-methoxy-benzenesulfonyl)-2-but-2-ynyl-hex-4-ynoic acid | 0.81 mmol, 0.27 g | COC1=CC=C(C=C1)S(=O)(=O)C(C(=O)O)(CC#CC)CC#CC | C17H18O5S
reactant | hydroxylamine hydrochloride | 10 mmol, 0.70 g | Cl.NO
product | 2-(4-Methoxy-benzenesulfonyl)-2-but-2-ynyl-hex-4-ynoic acid hydroxyamide | Yield 89% | ONC(C(CC#CC)(CC#CC)S(=O)(=O)C1=CC=C(C=C1)OC)=O | C17H19NO5S
